US06268499B1
Preparation of (1R, 6R)-6-(4-benzyloxy-phenyl)-3-[(R)-1-phenyl-ethyl]-7-oxa-3-aza-bicyclo [4.1.0] heptane
44.3 g of (R)-4-(4-Benzyloxy-phenyl)-1-(1-phenyl-ethyl)-1,2,3,6 tetrahydropyridine (120 mmol) was suspended in 440 mL of dioxane at room temperature. Under stirring 40.4 g of 48% aqueous hydrogen bromide (240 mmol) was added at 15-20° C. within 5 minutes, followed by 24 mL of water. At the same temperature, the pH of the mixture was adjusted to pH 2 using 65 mL of 2 N NaOH. The slightly turbid solution was cooled to 2-3° C, and 21.2 g of bromine (133 mmol) was continuously added over 1.5 hours from a syringe pump via a teflon cannula. After the bromine addition, stirring at 2-3° C. was continued for another 1.5 hours. At this point, all starting material had reacted. At 0° C., 160 mL of 4 N NaOH (640 mmol) was added over 30 minutes and stirring was continued. After 2 hours the intermediate had completely reacted to the final product. The reaction mixture was extracted using a mixture of 500 mL of ethyl acetate and 200 mL of 20% aq. sodium chloride. The aqueous phase was separated and extracted with 1 portion of 300 mL of ethyl acetate. The organic phases were washed with 300 ml of 20% aq. sodium chloride, combined, dried (MgSO4) and evaporated under reduced pressure to give 51.3 g crude product as a brown oil. The crude product was taken up in 50 mL of ethyl acetate. Immediately after dissolution crystals started to separate. 50 mL of diethyl ether was added and the suspension was cooled to 0° C. A second portion of 25 mL of diethyl ether was added and the suspension was stirred for another 1 hour at 0° C. The crystals were collected on a filter funnel and washed with a portion of cold diethyl ether. The product was then dried for 2 hours at 26 mbar/45° C. There was obtained 23.5 g of (1R, 6R)-6-(4-benzyloxy-phenyl)-3-[(R)-1-phenyl-ethyl]-7-oxa-3-aza-bicyclo [4.1.0] heptane.

reactant | (R)-4-(4-Benzyloxy-phenyl)-1-(1-phenyl-ethyl)-1,2,3,6 tetrahydropyridine | 120 mmol, 44.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1CCN(CC1)[C@H](C)C1=CC=CC=C1 | C26H27NO
reactant | hydrogen bromide | 240 mmol, 40.4 g | Br | BrH
reactant | NaOH | 2 N, 65 mL | [OH-].[Na+]
reactant | bromine | 133 mmol, 21.2 g | BrBr | Br2
reactant | NaOH | 640 mmol, 4 N, 160 mL | [OH-].[Na+]
solvent | dioxane | 440 mL | O1CCOCC1 | C4H8O2
solvent | water | 24 mL | O | H2O
product | (1R, 6R)-6-(4-benzyloxy-phenyl)-3-[(R)-1-phenyl-ethyl]-7-oxa-3-aza-bicyclo [4.1.0] heptane | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@]12CCN(C[C@H]2O1)[C@H](C)C1=CC=CC=C1 | C26H27NO2
